US07625880B2
To a 200 mL round-bottom flask equipped with a magnetic stir bar was added 2-(4-fluoro-2-methyl-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one (1.3 g, 3.7 mmol) selenium dioxide (1.23 g, 11.0 mmol) and dioxane (100 mL). The flask was fitted with a reflux condenser and heated to 100° C. in an oil bath for 5 h. The flask was then cooled to room temperature and the mixture filtered through a plug of celite, washing with 10% MeOH/DCM. The filtrate was concentrated to dryness and the resulting brown solid further purified by trituration with cold DCM to give 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde (1.11 g, 82%) as a red-yellow solid. 1H NMR (400 MHz, DMSO-d6+TFA) δ 10.80 (br s, 1H), 10.70 (br s, 1H), 10.25 (s, 1H), 8.02 (d, 1H, J=8.8 Hz), 7.80 (d, 1H, J=8.8 Hz), 7.57 (dd, 1H, J1=5.5 Hz, J2=8.6 Hz), 7.35 (dd, 1H, J1=3.1 Hz, J2=9.8 Hz), 7.26 (td, 1H, J1=3.1 Hz, J2=8.6 Hz), 4.14 (s, 3H), 2.69 (s, 3H), 2.31 (s, 3H); ESMS (m/z): found, 365.

reactant | 2-(4-fluoro-2-methyl-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one | 3.7 mmol, 1.3 g | FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C)C)N1)C)C | C20H19FN4O
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde | 1.11 g, 82% | FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C=O)C)N1)C)C | C20H17FN4O2
